US08314091B2
D: 3-((4-(4-(3-Neopentylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide
3((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide (0.129 mmol, 58 mg) and 4-nitrophenylchloroformate (0.142 mmol, 29 mg) were stirred together in dichloromethane (1 mL) for 16 hours. After this time neopentylamine (0.259 mmol, 32 μL) was added. The volatiles were removed under vacuum and this residue was purified by silica chromatography to yield the title compound (50 mg). MS (ESI) m/z 562.5 [M+H]+

reactant | 3((4-(4-Aminobenzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 0.129 mmol, 58 mg | NC1=CC=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=C1 | C23H27F3N4O2
reactant | 4-nitrophenylchloroformate | 0.142 mmol, 29 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | neopentylamine | 0.259 mmol, 32 μL | C(C(C)(C)C)N | C5H13N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-((4-(4-(3-Neopentylureido)benzoyl)piperazin-1-yl)methyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 50 mg | C(C(C)(C)C)NC(NC1=CC=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC2)C=C1)=O | C29H38F3N5O3
